US08912169B2
Step 3: Synthesis of 2-[4-[tert-butoxycarbonyl(2-methylsulfanylethyl)amino]cyclohexyl]acetic acid
To a solution of ethyl 2-[4-[tert-butoxycarbonyl(2-methylsulfanylethyl)amino]cyclohexyl]acetate (2.11 g, 5.89 mmol) in methanol (10 mL) and THF (10 mL) was added NaOH (10 mL, 1M aqueous). The resulting solution was stirred for 3.75 hours then acidified with HCl (2M, aqueous to pH 2). This mixture was extracted with ethyl acetate, washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by silica chromatography (25 g silica; eluted with 20-60% ethyl acetate in hexanes) to give the title compound as a 6.9:1 mixture of trans to cis isomers.

reactant | ethyl 2-[4-[tert-butoxycarbonyl(2-methylsulfanylethyl)amino]cyclohexyl]acetate | 5.89 mmol, 2.11 g | C(C)(C)(C)OC(=O)N(C1CCC(CC1)CC(=O)OCC)CCSC | C18H33NO4S
reactant | NaOH | 1M, 10 mL | [OH-].[Na+]
reactant | HCl | 2M, pH 2 | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[4-[tert-butoxycarbonyl(2-methylsulfanylethyl)amino]cyclohexyl]acetic acid | C(C)(C)(C)OC(=O)N(C1CCC(CC1)CC(=O)O)CCSC | C16H29NO4S
